US04549988
8-Chloro-5-(1-amino-2-propyn-3-yl)-1-phenyl-3H-2-benzazepine dihydrochloride
A mixture of 5 g (11.4 mmole) of 8-chloro-5-(1-phthalimido-2-propyn-3-yl)-1-phenyl-3H-2-benzazepine, 100 ml of ethanol and 20 ml of 40% aqueous methylamine was stirred at room temperature for 1 hr, poured into ice water and extracted with ether. The ether solution was dried over anhydrous sodium sulfate and concentrated at reduced pressure to dryness. The residue was dissolved in an excess of methanolic hydrogen chloride and concentrated at reduced pressure to dryness. The residue crystallized from a mixture of ethanol and isopropanol to give a tan solid, mp 247°-248° C. Recrystallization from a mixture of ethanol and ether gave tan prisms, mp 247°-248° C.

reactant | 8-chloro-5-(1-phthalimido-2-propyn-3-yl)-1-phenyl-3H-2-benzazepine | 11.4 mmole, 5 g | ClC1=CC2=C(C(=CCN=C2C2=CC=CC=C2)C#CCN2C(C=3C(C2=O)=CC=CC3)=O)C=C1 | C27H17ClN2O2
reactant | methylamine | 20 ml | CN | CH5N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 8-Chloro-5-(1-amino-2-propyn-3-yl)-1-phenyl-3H-2-benzazepine dihydrochloride | Cl.Cl.ClC1=CC2=C(C(=CCN=C2C2=CC=CC=C2)C#CCN)C=C1 | InChI=1S/C19H15ClN2.2ClH/c20-16-8-9-17-14(7-4-11-21)10-12-22-19(18(17)13-16)15-5-2-1-3-6-15;;/h1-3,5-6,8-10,13H,11-12,21H2;2*1H
